US07071175B1
2-[N,N-bis(tert-Butoxycarbonyl)amino]-5-bromomethyl-3-methyl-pyridin (1.6 g, 4.0 mmol) was added to a solution of 2,2,5-trimethyl-1,3-dioxane-4,6-dione (630 mg, 4.0 mmol) and triethylamine (0.58 mL, 4.2 mmol) in dimethyl sulfoxide (40 mL). The reaction mixture was stirred overnight and water (100 mL) was added. The mixture was extracted with EtOAc, the combined organic phases washed with water and brine and dried. Concentration under reduced pressure gave crude 2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methyl-5-(2,2,5-trimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl)-pyridin (2.06 g)

reactant | 2-[N,N-bis(tert-Butoxycarbonyl)amino]-5-bromomethyl-3-methyl-pyridin | 4.0 mmol, 1.6 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)CBr | C17H25BrN2O4
reactant | 2,2,5-trimethyl-1,3-dioxane-4,6-dione | 4.0 mmol, 630 mg | CC1(OC(C(C(O1)=O)C)=O)C | C7H10O4
reactant | triethylamine | 4.2 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
solvent | dimethyl sulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methyl-5-(2,2,5-trimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl)-pyridin | 2.06 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)CC1(C(OC(OC1=O)(C)C)=O)C | C24H34N2O8
